US09024027B2
To a solution of 5-nitroindoline (1 g, 6.09 mmol) in dry DMF (20 ml), K2CO3 (1.094 g, 7.92 mmol) and benzyl 2-bromoacetate (1.242 ml, 7.92 mmol) were added, and the resulting suspension was heated at 65° C. for 2 hours. The mixture was cooled to room temperature, diluted with ethyl acetate and washed with water and brine. The organic layer was dried over sodium sulfate and the solvent was removed. The residue was purified by flash chromatography on silica gel column (DCM:petroleum ether=60:40) affording benzyl 2-(5-nitroindolin-1-yl)acetate (0.782 g, 2.504 mmol, 41% yield). MS/ESI+ 312.9 [MH]+.

reactant | 5-nitroindoline | 6.09 mmol, 1 g | [N+](=O)([O-])C=1C=C2CCNC2=CC1 | C8H8N2O2
reactant | K2CO3 | 7.92 mmol, 1.094 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl 2-bromoacetate | 7.92 mmol, 1.242 ml | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl 2-(5-nitroindolin-1-yl)acetate | 2.504 mmol, 0.782 g, 41% yield | [N+](=O)([O-])C=1C=C2CCN(C2=CC1)CC(=O)OCC1=CC=CC=C1 | C17H16N2O4
